US06420555B1
(±)-3-(3-Chlorophenyl)-5-[(4-chlorophenyl)hydroxyl(1-methyl-1H-imidazol-5-yl)methyl]indole
To a solution of 1-methylimidazole (53 mg) in anhydrous THF (3 mL) was added dropwise a solution of butyllithium in hexane (1.6 M, 430 μL) at about −78° C. The mixture was stirred at about −78° C. for about 15 minutes. To the solution was added dropwise a solution of chlorotriethylsilane in THF (1.0M, 660 μL). The mixture was warmed to room temperature and stirred at room temperature for 1 hour. The mixture was cooled to about −78° C. and to it was added dropwise a solution of butyllithium in hexane (1.6M, 430 μL). The solution was stirred at about −78° C. for about 1 hour and in the following 15 minutes, it was warmed to about −15° C. The solution was cooled to about −78° C. To it was added dropwise a solution of 1-methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indole (95 mg) (see preparation #7) in THF (2 mL). The mixture was warmed to room temperature and stirred for about 2 hours. The solution was cooled to about 0° C. and to it was added methanol and water. The mixture was stirred for about 2 hours. The solution was concentrated in vacuo. The residue was dissolved in dichloromethane (DCM) and washed with water once. The organic layer was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography, on silica, eluting with DCM/MeOH 95:5. Affording the title compound Rf=0.20 (silica, DCM/MeOH 9:1), MS (ES) 447.2; Calc. MW=447.4. 60 mg, yield: 63%.

reactant | 1-methylimidazole | 53 mg | CN1C=NC=C1 | C4H6N2
reactant | butyllithium | C(CCC)[Li]
reactant | chlorotriethylsilane | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | 1-methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indole | 95 mg | CS(=O)(=O)N1C=C(C2=CC(=CC=C12)C(C1=CC=C(C=C1)Cl)=O)C1=CC(=CC=C1)Cl | C22H15Cl2NO3S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M, 430 μL | CCCCCC | C6H14
solvent | THF | 1.0M, 660 μL | C1CCOC1 | C4H8O
solvent | hexane | 1.6M, 430 μL | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | (±)-3-(3-Chlorophenyl)-5-[(4-chlorophenyl)hydroxyl(1-methyl-1H-imidazol-5-yl)methyl]indole | yield: 63% | ClC=1C=C(C=CC1)C1=CNC2=CC=C(C=C12)C(C1=CN=CN1C)(O)C1=CC=C(C=C1)Cl | C25H19Cl2N3O
